US07425551B2
a) [(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-carbamic acid tert-butyl ester
Using ((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-carbamic acid tert-butyl ester and benzyl 2-bromoethyl ether, the title compound was prepared in the same manner as described for example 1a. White crystals, mp. 132-134° C. (84%). MS: m/e=459(M+H+), mp 133° C.

reactant | ((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C19H20N2O3
reactant | benzyl 2-bromoethyl ether | BrCCOCC1=CC=CC=C1 | C9H11BrO
product | [(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2)=O | C28H30N2O4
